data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_130777_0,[C:1]([C:4](/[C:3](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])[O:7][H:9])=[C:5](/[O:8][H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:3]([O:7][H:9])[C@@:6]([C:2]([H:16])([H:17])[H:18])([H:12])[C@:5]1([O:8][H:10])[H:11])([H:13])([H:14])[H:15],50.551399999994544
MR_508752_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:7](/[N:6]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[C:7]1([N:6]([H:9])[H:10])[H:13],71.6849724999986
MR_221643_0,[C:1]([C:2]([N:4]([H:9])[H:10])([O:6][C:3]([H:11])([H:12])[H:13])[H:8])(=[O:5])[H:7]>>[C:1]1([O:6][C:3]([H:11])([H:12])[H:13])([H:7])[C:2]([N:4]([H:9])[H:10])([H:8])[O:5]1,37.18941500002288
MR_531729_1,[C:1]([C:4]([O:6][N:2]([C:3]([N:5]([H:10])[H:11])=[O:7])[H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([O:7][C:3]1([N:5]([H:10])[H:11])[N:2]([H:9])[O:6]1)=[O:8])([H:12])([H:13])[H:14],62.90938499996855
MR_147103_1,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]/[O:7][H:9])([O:6][C:2]([H:11])([H:12])[H:13])[H:10]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:5](/[C:4]([H:17])([H:18])[H:19])[N:8]([O:6][C:2]([H:11])([H:12])[H:13])[O:7][H:9])[H:10],72.68018749998276
MR_642721_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([O:6][C:5]([C:4]([H:16])([H:17])[H:18])=[O:9])[N:7]=[O:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])[C:5]([C:4]([H:16])([H:17])[H:18])([O:9][N:7]=[O:8])[O:6]1,62.94389750002409
MR_539204_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[C:2]([H:10])([H:11])[C:6]2([C:5]([H:19])([H:20])[H:21])[C:7]3([H:12])[N:8]1[N:9]23>>[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[C:2]([H:10])([H:11])[C:6]([C:5]([H:19])([H:20])[H:21])=[C:7]([H:12])[N:9]=[N:8]1,52.42950750003246
MR_594386_0,[C:1]([C:2]([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[H:9])([N:3]([H:10])[H:11])([N:6]=[O:7])[H:8]>>[C:1]([C:2]([N:4]([H:12])[H:13])([N:6]=[O:7])[H:9])([N:3]([H:10])[H:11])([N:5]([H:14])[H:15])[H:8],72.4316974999681
MR_587161_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([O:8][C:7]([C:4]([H:15])([H:16])[H:17])=[O:9])[C:2]([C:5]([H:18])([H:19])[H:20])([H:11])[N:6]1[H:10]>>[C:1]([C:3]([H:12])([H:13])[H:14])([N:6]([C:2]([C:5]([H:18])([H:19])[H:20])([C:7]([C:4]([H:15])([H:16])[H:17])=[O:9])[H:11])[H:10])=[O:8],63.53562999999255
MR_531439_0,[C:1]1([C:3]([H:16])([H:17])[H:18])([N:7]([H:11])[H:12])[C:6]([N:5]([C:4]([H:19])([H:20])[H:21])[H:10])([O:8][C:2]([H:13])([H:14])[H:15])[O:9]1>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:6]([N:5]([C:4]([H:19])([H:20])[H:21])[H:10])=[O:9])([N:7]([H:11])[H:12])[O:8][C:2]([H:13])([H:14])[H:15],17.2625250000398
MR_70861_0,[C:1](\[C:2]([O:6][H:13])([H:10])[H:11])(=[C:4](\[C:5](=[C:3]([H:14])[H:15])[H:12])[O:7][H:8])[H:9]>>[C:1]1(/[C:4](=[C:5](\[C:3]([H:13])([H:14])[H:15])[H:12])[O:7][H:8])([H:9])[C:2]([H:10])([H:11])[O:6]1,56.90107250001432
MR_600433_2,[C:1]([C:2]([C:4](=[C:6]([H:16])[H:17])[H:13])=[C:5]([H:14])[H:15])([N:3]([H:11])[H:12])([O:7][O:8][H:9])[H:10]>>[C:1]1([N:3]([H:11])[H:12])([H:10])[C:2]([C:4](=[C:6]([H:16])[H:17])[H:13])([O:7][O:8][H:9])[C:5]1([H:14])[H:15],56.268552500006166
MR_389304_1,[C:1]([O:3][C:2](=[O:7])[H:10])([O:4][H:8])([N:5]=[O:6])[H:9]>>[C:1]([C:2](=[O:7])[H:10])([O:3][N:5]=[O:6])([O:4][H:8])[H:9],70.48895750002202
MR_211077_0,[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:6]([N:7]([H:11])[H:12])=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:13])[H:10]>>[C:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[C:6]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:7]([H:11])[H:12])[C:8]1([C:4]([H:20])([H:21])[H:22])[H:13],70.71987750004538
MR_560531_1,[C:1]1(=[N:7]\[H:9])\[C:2](/[C:3](=[N:8]/[H:10])[H:11])([C:4](=[C:6]([H:15])[H:16])[H:12])[C:5]1([H:13])[H:14]>>[C:1](\[C:2](/[C:3](=[N:8]/[H:10])[H:11])=[C:5]([H:13])[H:14])([C:4](=[C:6]([H:15])[H:16])[H:12])=[N:7]\[H:9],72.89542000001006
MR_599985_1,[C:1](\[C:2]([H:16])([H:17])[H:18])([C:3](/[C:4]([N:5]([H:10])[H:11])=[N:8]/[H:15])([N:7]([H:12])[H:14])[H:9])=[N:6]\[H:13]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3](=[N:7]/[H:14])[H:9])(/[C:4]([N:5]([H:10])[H:11])=[N:8]/[H:15])[N:6]([H:12])[H:13],56.96319500000016
MR_151167_1,[C:1]1([C:2]([H:10])([H:11])[H:12])([O:5][H:7])[C:4]([C:3]([H:13])([H:14])[H:15])([H:8])[N:6]1[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])(/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]\[H:9])([O:5][H:7])[H:8],60.69054500000618
MR_503596_1,[C:1](/[C:2]([N:5]([H:12])[H:13])=[N:6]/[H:14])([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[H:7]>>[C:1](\[C:2]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[N:6]([H:9])[H:14])(=[N:3]/[H:8])[H:7],48.08595250001275
MR_579581_1,[C:1]1(/[C:4]([N:6]([H:11])[H:12])=[N:7]/[N:5]([H:9])[H:10])([H:8])[C:2]([H:13])([H:14])[C:3]1([H:15])[H:16]>>[C:1]1([H:8])=[C:4]([N:6]([H:11])[H:12])[N:7]([N:5]([H:9])[H:10])[C:3]([H:15])([H:16])[C:2]1([H:13])[H:14],53.74913999998228
